* Z:\mnt\design.r\spice\examples\1017.asc
V1 +V 0 5
XU1 N002 N001 +V 0 OUT LT1017
R1 N002 0 100K
R2 +V N002 1K
R3 N001 0 20K
C1 +V N001 1µ
.tran 5m startup
* Delay On Power Up
.lib LTC1.lib
.backanno
.end
